US04891412
Example 1: N-(6-methyl-pyridine-2-carbaldehyde)-(R)-1-(4-vinylphenyl)-ethylimine
A solution of 1.69 g (13.9 mmol) of 6-methylpyridine-2-carbaldehyde, 2.05 g (13.9 mmol) of (R)-1-(4-vinylphenyl)-ethylamine and 25 ml of ethanol is heated under reflux for 1 hour. The solvent is then distilled off under about 3 kPa, and the residue is distilled in a bulb tube furnace at 170° C. and under 0.11 Pa. 3.3 g (88% of theory) of an oil are obtained, which crystallises at room temperature. Melting point: about 25° C., [α]D20 =21.6° (c=1.036, chloroform). Elemental analysis: Found: C 81.71; H 7.25; N 11.02%; Calculated for C17H18N2 (250.35): C 81.56; H 7.25; N 11.19%.

reactant | 6-methylpyridine-2-carbaldehyde | 13.9 mmol, 1.69 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | (R)-1-(4-vinylphenyl)-ethylamine | 13.9 mmol, 2.05 g | C(=C)C1=CC=C(C=C1)[C@@H](C)N | C10H13N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(6-methyl-pyridine-2-carbaldehyde)-(R)-1-(4-vinylphenyl)-ethylimine | C(=C)C1=CC=C(C=C1)[C@@H](C)N=CC1=NC(=CC=C1)C | C17H18N2
